US06294558B1
To a stirred suspension of 3-fluoro-4-(methylsulfonyl)aniline (8.1 g, 42.9 mmol) in 20% aqueous HCl (27 mL) was added dropwise a solution of sodium nitrite (3 g, 43.5 mmol) in water (20 mL) at 0° C. After stirring for 1 hour, the resulting suspension was added to a solution of sodium sulfite (13.5 g, 110 mmol) in water (60 mL) and 20% aqueous NaOH (3 mL) at 0-5° C. Then the mixture was heated at 60-70° C. for 2 hours, and conc. HCl (3.5 mL) was added. The resulting mixture was heated for further 5 hours at 60° C. After cooling down to room temperature, the mixture was made basic by Na2CO3. The whole was extracted with THF (150 mL×3), the combined organic layer washed with brine (100 mL), dried over MgSO4, and concentarted in vacuo. The resulting solid was recrystallized from EtOH to give 3-fluoro-4-(methylsulfonyl)phenylhydrazine (5 g, 57% yield).

reactant | 3-fluoro-4-(methylsulfonyl)aniline | 42.9 mmol, 8.1 g | FC=1C=C(N)C=CC1S(=O)(=O)C | C7H8FNO2S
reactant | sodium nitrite | 43.5 mmol, 3 g | N(=O)[O-].[Na+]
reactant | sodium sulfite | 110 mmol, 13.5 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl | 27 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | water | 60 mL | O | H2O
solvent | NaOH | 3 mL | [OH-].[Na+]
solvent | HCl | 3.5 mL | Cl | ClH
product | 3-fluoro-4-(methylsulfonyl)phenylhydrazine | 5 g, 57% yield | FC=1C=C(C=CC1S(=O)(=O)C)NN | C7H9FN2O2S
